US06747023B1
[(5-tert-Butyldimethylsilyloxy -4-oxo-4H-pyran-2-yl)methyl]amine
In N,N-dimethylformamide (20 ml) was dissolved (5-tert-butyldimethylsilyloxy-4-oxo-4H-pyran-2-yl)methyl chloride (2.00 g). Sodium azide (1.00 g) was added to the resulting solution and the resulting mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue, followed by washing once with water and then once with saturated aqueous NaCl solution. The organic layer thus extracted was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The resulting residue was dissolved in methanol (100 ml), followed by the addition of 10% palladium-carbon (50% wet w/w, 800 mg). The resulting mixture was stirred overnight under a hydrogen gas stream of normal pressure. The reaction mixture was subjected to Celite filtration, the filtrate was concentrated under reduced pressure and the residue was purified by chromatography on a silica gel column (methylene chloride methanol=100:3), whereby the title compound (290 mg) was obtained as a colorless oil.

reactant | (5-tert-butyldimethylsilyloxy-4-oxo-4H-pyran-2-yl)methyl chloride | 2.00 g | [Si](C)(C)(C(C)(C)C)OC=1C(C=C(OC1)CCl)=O | C12H19ClO3Si
reactant | Sodium azide | 1.00 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [(5-tert-Butyldimethylsilyloxy -4-oxo-4H-pyran-2-yl)methyl]amine | [Si](C)(C)(C(C)(C)C)OC=1C(C=C(OC1)CN)=O | C12H21NO3Si
